US06124323
1-[2-(4-Hydroxyphenoxy)ethyl]-4-(2,6-difluorobenzyl)piperidine hydrochloride
The title compound was prepared from 2-(4-benzyloxyphenoxy)ethyl bromide (0.393 g, 1.28 mmol), 4-(2,6-difluorobenzyl)piperidine hydrochloride (0.317 g, 1.28 mmol) and potassium carbonate (0.444 g, 3.2 mmol) in two steps as off white solid (0.240 g). mp 198-200° C. 1H NMR (CD3OD) 1.595 (m, 2 H), 1.906 (m, 3 H), 2.705 (d, J=5.7 Hz, 2 H), 3.029 (t, J=12.3 Hz, 2 H), 3.303 (m, 2 H), 3.629 (d, J=12.6 Hz, 2 H), 4.238 (t, J=4.5 Hz, 2 H), 6.702 (d, J=9.0 Hz, 2 H), 6.825 (d, J=9.0 Hz, 2 H), 6.953 (m, 2 H), 7.277 (m, 1 H).

reactant | 2-(4-benzyloxyphenoxy)ethyl bromide | 1.28 mmol, 0.393 g | C(C1=CC=CC=C1)OC1=CC=C(OCCBr)C=C1 | C15H15BrO2
reactant | 4-(2,6-difluorobenzyl)piperidine hydrochloride | 1.28 mmol, 0.317 g | Cl.FC1=C(CC2CCNCC2)C(=CC=C1)F
reactant | potassium carbonate | 3.2 mmol, 0.444 g | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-Hydroxyphenoxy)ethyl]-4-(2,6-difluorobenzyl)piperidine hydrochloride | Cl.OC1=CC=C(OCCN2CCC(CC2)CC2=C(C=CC=C2F)F)C=C1 | InChI=1S/C20H23F2NO2.ClH/c21-19-2-1-3-20(22)18(19)14-15-8-10-23(11-9-15)12-13-25-17-6-4-16(24)5-7-17;/h1-7,15,24H,8-14H2;1H
